US07947728B1
To 4-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-1H-indole (37 mg, 0.10 mmol, 1 eq.) was added dimethylformamide (1 mL), triethylamine (0.154 ml, 1.1 mmol, 10 eq.) and succinic anhydride (30 mg, 0.3 mmol, 3 eq.) the reaction was stir at 80° C. for 8 hr and allowed to cool to room temperature. Lithium bis(trimethylsilyl)amide (1 M in THF, 1.2 mL, 1.2 mmol, 12 eq) was added and the reaction was allowed to proceed at room temperature for 24 hr. The reaction was purified by HPLC with a 30-100% acetonitrile in water gradient and dried from dichloromethane/hexanes mixture to yield 4-[4-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-indol-1-yl]-4-oxo-butyric acid as a white solid (16 mg, 34%). LC-MS (ES) calculated for C26H21F2NO5, 465.1; found m/z 466 [M+H]+.

reactant | 4-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-1H-indole | 0.10 mmol, 37 mg, 1 eq. | FC1=CC(=C(C=C1F)C1=CC=C(C=C1)OCC1=C2C=CNC2=CC=C1)OC | C22H17F2NO2
reactant | triethylamine | 1.1 mmol, 0.154 ml, 10 eq. | C(C)N(CC)CC | C6H15N
reactant | succinic anhydride | 0.3 mmol, 30 mg, 3 eq. | C1(CCC(=O)O1)=O | C4H4O3
reactant | Lithium bis(trimethylsilyl)amide | 1.2 mmol, 1 M, 1.2 mL, 12 eq | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 4-[4-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-indol-1-yl]-4-oxo-butyric acid | 16 mg, 34% | FC1=CC(=C(C=C1F)C1=CC=C(C=C1)OCC1=C2C=CN(C2=CC=C1)C(CCC(=O)O)=O)OC | C26H21F2NO5
